* C:\Users\bohda\AppData\Local\Temp\Rar$DIa12752.10216\Kursach.asc
R1 Vcc N005 4.7k
D1 N005 0 1N4148
R2 N006 N005 10k
XU1 N013 N006 N007 pot R=10k T=1
R3 N013 0 1k
C1 N007 0 2.2µ
XU2 N012 N007 Vcc 0 N009 LM393
D2 N008 N009 1N4148
R4 Vcc N008 4.7k
R6 N003 0 10k
R5 Vcc N003 10k
XU3 N008 N003 Vcc 0 N004 LM393
C2 Vcc 0 0.1µ
R7 Vcc N004 4.7k
Q1 Vcc N004 N001 0 2N5551
Q2 0 N004 N001 0 2N5401
R8 N002 N001 10
XU4 N010 N002 Vcc IRFR9024
C3 Vcc 0 0.1µ
L1 N010 N011 47m
D3 0 N010 SS14
R9 N014 N012 1k
C5 N012 0 22p
R10 N014 0 1
R11 N014 0 1
V1 Vcc 0 5
C4 Vcc 0 100µ
D5 N011 N014 LXMA-PW01-VFBin_E
.model D D
.lib C:\Users\bohda\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\bohda\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 100m 0 50n
.lib ..\sym\EXTRA\IRF\LIB\irfr9024.spi
.lib ..\sym\EXTRA\Misc\pot.lib
.lib Sborka.lib
.backanno
.end
