* source FIRST
X_U1         $D_LO $D_LO HEEL N00470 N00432 N00444 OUT1 OUT2 OUT3 OUT4 OUT5
+  OUT6 OUT7 OUT8 OUT9 OUT10 OUT11 OUT12 OUT13 OUT14 OUT15 OUT16 $G_DPWR $G_DGND
+  74154 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2         N03656 HEEL $D_LO $D_LO HEEL N00470 N00432 N00444 $G_DPWR $G_DGND
+  7493A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_B1_B1U1         N03656 M_UN0001 N033100 N033100 FCLK2 M_UN0002 M_UN0003
+  M_UN0004 $G_DPWR $G_DGND 7493A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_B1_B1U2A         N033100 B1_N00450 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_B1_B1U3A         B1_N00450 B1_N00460 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_B1_B1U3B         B1_N00460 B1_N00464 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_B1_B1U3C         B1_N00464 N03656 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
C_B1_B1C1         B1_N00450 B1_N00464  1200pF  TC=0,0 
R_B1_B1R1         B1_N00450 B1_N00460  210 TC=0,0 
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND N033100 IO_STM STIMULUS=Reset
